US07737152B2
2-Chloro-6-(3-chlorophenyl-oxy)-pyrazine, CJS 504(A)
Using Method DD with 2,6-dichloropyrazine (250 mg, 1.69 mmol) and 3-chlorophenol (193 μL, 1.86 mmol, d=1.24 g/mL), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (346 mg). Yield: 85%. 1H NMR (250 MHz, DMSO-d6) δ 7.32 (dd, 1H, Harom 4, Jo=8.2 Hz, Jm=1.9 Hz), 7.43 (d, 1H, Harom 6, J=8.0 Hz), 7.50 (d, 1H, Harom 2, Jm=1.9 Hz), 7.56 (t, 1H, Harom 5, J=8.1 Hz), 8.59 (s, 1H, HPz 5), 8.62 (s, 1H, HPz 3). m/z: 241.1 [(M+H)+, calcd for C10H6Cl2N2O 240.0].

reactant | 2,6-dichloropyrazine | 1.69 mmol, 250 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 3-chlorophenol | 1.86 mmol, 193 μL | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Chloro-6-(3-chlorophenyl-oxy)-pyrazine | Yield: 85% | ClC1=NC(=CN=C1)OC1=CC(=CC=C1)Cl | C10H6Cl2N2O
